US06800642B2
8-[4-(1H-Indol-3-yl)-3,6-dihydro-2H-pyridin-1-ylmethyl]-7,8-dihydro-2,6,9-trioxa-3-aza-cyclopenta[a]naphthalene
(2R)-2,3-Dihydro[1,4]dioxino[2,3-e][2,1]benzisoxazol-2-ylmethyl 4-methyl-benzenesulfonate (0.60 g, 1.66 mmole) and 3-(1,2,3,6-tetrahydro-4-pyridinyl)-1H-indole (0.98 g, 4.90 mmole) were combined in 30 mL of DMSO under nitrogen. This solution was heated to 75-80° C. under nitrogen for 6 hours. After completion, the reaction was cooled to room temperature and partitioned between 400 mL each of ethyl acetate and saturated aqueous sodium bicarbonate. The organic phase was removed and washed with brine, dried over magnesium sulfate and concentrated in vacuum. The crude residue was column chromatographed on silica gel using methylene chloride to remove impurities and 1% methanol/methylene chloride to elute the product. Upon evaporation of the product fractions, 0.47 g (73%) of the (S)-enantiomer of the title compound was obtained as a white solid, m.p. 110° C.

reactant | (2R)-2,3-Dihydro[1,4]dioxino[2,3-e][2,1]benzisoxazol-2-ylmethyl 4-methyl-benzenesulfonate | 1.66 mmole, 0.60 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1COC=2C=CC=3C(=CON3)C2O1 | C17H15NO6S
reactant | 3-(1,2,3,6-tetrahydro-4-pyridinyl)-1H-indole | 4.90 mmole, 0.98 g | N1CCC(=CC1)C1=CNC2=CC=CC=C12 | C13H14N2
solvent | DMSO | 30 mL | CS(=O)C | C2H6OS
product | 8-[4-(1H-Indol-3-yl)-3,6-dihydro-2H-pyridin-1-ylmethyl]-7,8-dihydro-2,6,9-trioxa-3-aza-cyclopenta[a]naphthalene | N1C=C(C2=CC=CC=C12)C=1CCN(CC1)CC1COC=2C=CC=3C(C2O1)=CON3 | C23H21N3O3
